US09371448B2
was prepared according to general procedure (A, in which 35 μl n-butylamine (0.35 mmol, 1 equiv), 40 μl formalin (0.53 mmol, 1.5 equiv), 0.11 mL 3.14 M hydrochloric acid in ethanol (0.35 mmol, 1 equiv) and 76 mg (4-methoxyphenyl)(pyridin-2-yl)methanone (0.35 mmol, 1 equiv) were combined in 0.70 mL acetonitrile and maintained at room temperature for 12 hours. The crude material was then dissolved in 3 mL ethanol and stirred with sodium bicarbonate at room temperature for 10 min. The resulting suspension was then filtered through a 1.0 mL 0.2 um nylon syringe tip filter and the solid was rinsed with an additional 1 mL of ethanol. The combined filtrate was then concentrated and triturated with 2 mL diethyl ether. The resulting solid was filtered and rinsed with diethyl ether two times using 1 mL of diethyl ether for each rinse providing 0.10 g 2-butyl-1-(4-methoxyphenyl)-2H-imidazo[1,5-a]pyridin-4-ium chloride (0.23 mmol, a 66% yield) as a white solid.

reactant | n-butylamine | 0.35 mmol, 35 μl, 1 equiv | C(CCC)N | C4H11N
reactant | formalin | 0.53 mmol, 40 μl, 1.5 equiv | C=O | CH2O
reactant | hydrochloric acid | 3.14 M, 0.11 mL | Cl | ClH
reactant | (4-methoxyphenyl)(pyridin-2-yl)methanone | 0.35 mmol, 76 mg, 1 equiv | COC1=CC=C(C=C1)C(=O)C1=NC=CC=C1 | C13H11NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 0.70 mL | C(C)#N | C2H3N
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | ethanol | 0.35 mmol, 1 equiv | C(C)O | C2H6O
product | 2-butyl-1-(4-methoxyphenyl)-2H-imidazo[1,5-a]pyridin-4-ium chloride | 0.10 g, 66% yield | [Cl-].C(CCC)N1C=[N+]2C(C=CC=C2)=C1C1=CC=C(C=C1)OC | InChI=1S/C18H21N2O.ClH/c1-3-4-12-20-14-19-13-6-5-7-17(19)18(20)15-8-10-16(21-2)11-9-15;/h5-11,13-14H,3-4,12H2,1-2H3;1H/q+1;/p-1
